US08791119B2
To a solution of 1.87 g (4.27 mmol) of 2-(tert-butyloxycarbonyl)-6-bromo-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxylic acid in 10 ml of tetrahydrofuran is added 0.831 g (5.12 mmol) of carbonyldiimidazole (CAS 530-62-1). After reaction for 1 hour at 50° C., the mixture is cooled and taken up in water, and the product is extracted with ethyl acetate. The organic phase is dried over sodium sulfate and the solvent is evaporated off under reduced pressure, to give a yellow oil, which crystallizes from 25 ml of diisopropyl ether, to give 1.82 g tert-butyl 6-bromo-7-(3-fluorophenyl)-8-(1H-imidazol-1-ylcarbonyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in the form of a beige-coloured powder.

reactant | 2-(tert-butyloxycarbonyl)-6-bromo-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxylic acid | 4.27 mmol, 1.87 g | C(C)(C)(C)OC(=O)N1CC=2N(CC1)C(=C(C2C(=O)O)C2=CC(=CC=C2)F)Br | C19H20BrFN2O4
reactant | carbonyldiimidazole | 5.12 mmol, 0.831 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl 6-bromo-7-(3-fluorophenyl)-8-(1H-imidazol-1-ylcarbonyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 1.82 g | BrC1=C(C(=C2N1CCN(C2)C(=O)OC(C)(C)C)C(=O)N2C=NC=C2)C2=CC(=CC=C2)F | C22H22BrFN4O3
